US07060836B2
N-(4-Phenyl-4-piperidinyl)acetamide
A mixture of N-(1-Benzyl-4-phenyl-4-piperidinyl)acetamide (Bioorg. Med. Chem. Lett. 1996; 6(19); 2307) (49 g, 158 mmol), and palladium hydroxide (5 g) in methanol (600 ml) was hydrogenated at 50 psi and room temperature for 18 hours. The mixture was filtered, the filtrate concentrated under reduced pressure and the residue azeotroped with dichloromethane to give the title compound as a foam.

reactant | N-(1-Benzyl-4-phenyl-4-piperidinyl)acetamide | 158 mmol, 49 g | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=CC=C1)NC(C)=O | C20H24N2O
solvent | methanol | 600 ml | CO | CH4O
catalyst | palladium hydroxide | 5 g | [OH-].[Pd+2].[OH-]
product | N-(4-Phenyl-4-piperidinyl)acetamide | C1(=CC=CC=C1)C1(CCNCC1)NC(C)=O | C13H18N2O
